US09238632B2
1) Preparation of 3-ethylaminobenzonitrile
Sodium methoxide (4.05 g, 75 mmol) is added into methanol (45 ml) and is dissolved under stirring, and to this solution is added a solution of 3-aminobenzonitrile (17.70 g, 150 mmol) in methanol (60 ml) dropwise and the resulting mixture is stirred at room temperature for 0.5 h. Then the reaction mixture is poured into a solution of acetaldehyde (8.8 g, 200 mmol) in methanol (100 ml) and is stirred at room temperature for 5.0 h. The mixture is added with NaBH4 (6.00 g, 150 mmol) in portions and is stirred at room temperature for 10 min, and then is refluxed at elevated temperature for 10 min. The reaction mixture is cooled under ice-water bath, added with 10% NaOH (aq) (90 ml) dropwise and is stirred for 5 min. Methanol is removed under reduced pressure, and the left aqueous solution is extracted with ethyl acetate (150 ml*2). The organic phases are combined, washed with saturated brine (100 ml) and separated, dried over anhydrous sodium sulfate, and concentrated to give a oily crude product (22.1 g). The crude product is purified by neutral alumina column chromatography (eluent: petroleum ether/CH2Cl2=2/1) to give a light yellow oily target product (15.4 g, yield: 70.2%).

reactant | Sodium methoxide | 75 mmol, 4.05 g | C[O-].[Na+]
reactant | 3-aminobenzonitrile | 150 mmol, 17.70 g | NC=1C=C(C#N)C=CC1 | C7H6N2
reactant | acetaldehyde | 200 mmol, 8.8 g | C(C)=O | C2H4O
reactant | NaBH4 | 150 mmol, 6.00 g | [BH4-].[Na+]
reactant | NaOH | 90 ml | [OH-].[Na+]
solvent | methanol | 60 ml | CO | CH4O
solvent | methanol | 100 ml | CO | CH4O
solvent | methanol | 45 ml | CO | CH4O
product | 3-ethylaminobenzonitrile | 15.4 g, yield: 70.2% | C(C)NC=1C=C(C#N)C=CC1 | C9H10N2
